US07960567B2
Methyl 2-(4-(2-bromo-4-nitro-1H-indol-5-yloxy)-3-methoxyphenyl)acetate (14.1).
To a solution of methyl 2-(3-methoxy-4-(4-nitro-2-oxoindolin-5-yloxy)phenyl)acetate (0.177 g, 0.476 mmol) in DCE (10 mL), phosphoryl tribromide (0.273 g, 0.952 mmol) was added dropwise at room temperature. The mixture was heated at 90° C. for 1 h, and then imidazole (0.049 g, 0.714 mmol) was added and heated for another 2 h. The reaction was quenched with ice, adjusted PH to 8 and diluted with ethyl acetate. The organic layer was washed with saturated brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. MS ESI (pos.) m/z: 435.1 (M+H)+

reactant | methyl 2-(3-methoxy-4-(4-nitro-2-oxoindolin-5-yloxy)phenyl)acetate | 0.476 mmol, 0.177 g | COC=1C=C(C=CC1OC=1C(=C2CC(NC2=CC1)=O)[N+](=O)[O-])CC(=O)OC | C18H16N2O7
reactant | phosphoryl tribromide | 0.952 mmol, 0.273 g | P(=O)(Br)(Br)Br | Br3OP
reactant | imidazole | 0.714 mmol, 0.049 g | N1C=NC=C1 | C3H4N2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | Methyl 2-(4-(2-bromo-4-nitro-1H-indol-5-yloxy)-3-methoxyphenyl)acetate | BrC=1NC2=CC=C(C(=C2C1)[N+](=O)[O-])OC1=C(C=C(C=C1)CC(=O)OC)OC | C18H15BrN2O6
